US06544985B2
A solution of 3-oxo-3-[3-(2-bromo-1,1-dimethoxy-ethyl)-phenyl]-propionic acid tert-butyl ester (2.34 g) (Example K28) and (2-amino-4-chloro-5-dimethylamino-phenyl)-carbamic acid tert.-butyl ester (Example J2) (1.57 g) in toluene (16 mL) was heated to 100° C. for 5 h. The solvent was evaporated in vacuum and the crude product was purified by chromatography on silica gel using CH2Cl2/AcOEt (1:20) as eluent. A solution of the purified material (2.4 g) in CH2Cl2/TFA (1:1, 30 mL) was stirred at 20° C. for 15 min and then evaporated. The residual oil was dissolved in AcOEt and the solution was washed with 1N HCl and with brine, dried and evaporated. The residue was crystallized from AcOEt/Et2O to give 4-(3-bromoacetyl-phenyl)-8-chloro-7-dimethylamino-1,3-dihydro-benzo[b][1,4]diazepin-2-one as light-brown solid.

reactant | 3-oxo-3-[3-(2-bromo-1,1-dimethoxy-ethyl)-phenyl]-propionic acid tert-butyl ester | 2.34 g | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C(CBr)(OC)OC)=O)=O | C17H23BrO5
reactant | (2-amino-4-chloro-5-dimethylamino-phenyl)-carbamic acid tert.-butyl ester | 1.57 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)Cl)N)=O | C13H20ClN3O2
solvent | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(3-bromoacetyl-phenyl)-8-chloro-7-dimethylamino-1,3-dihydro-benzo[b][1,4]diazepin-2-one | BrCC(=O)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C(=C2)N(C)C)Cl | C19H17BrClN3O2
